US06326386B1
{2-[3-Chloro-5-(cyclopentyl-(4-[1,2,4]triazol-1-yl-butyl)-carbamoyl)-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester
A solution of 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid (0.040 g), cyclopentyl-(4-[1,2,4]triazol-1-yl-butyl)-amine (0.055 g) and EEDQ (0.050 g) in acetonitrile (2 ml) was stirred at reflux, under nitrogen, for 4 h. The solvent was evaporated and the residue was purified by flash chromatography eluting with dichloromethane:methanol:ammonia (95:5:0.5 then 90:10:1 v/v/v) to give the title compound as an orange oil (0.022 g).

reactant | 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid | 0.040 g | C(C)(C)(C)OC(=O)N(CCOC=1C=C(C(=O)O)C=C(C1)Cl)C1=CC=NC=C1 | C19H21ClN2O5
reactant | cyclopentyl-(4-[1,2,4]triazol-1-yl-butyl)-amine | 0.055 g | C1(CCCC1)NCCCCN1N=CN=C1 | C11H20N4
reactant | EEDQ | 0.050 g | CCOC1C=CC2=CC=CC=C2N1C(=O)OCC | C14H17NO3
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | {2-[3-Chloro-5-(cyclopentyl-(4-[1,2,4]triazol-1-yl-butyl)-carbamoyl)-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester | 0.022 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)C(N(CCCCN1N=CN=C1)C1CCCC1)=O)Cl)=O | C30H39ClN6O4
